US06727256B1
N-[4-(Benzyloxy)phenyl]-7-fluoro-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from a mixture of 5-(4-(4-benzyloxy-phenylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride (0.13 grams) in 1,2-dichloroethane (3 ml), diisopropylethylamine (65 mg), acetic acid (45 mg), 2-methanesulphonylethylamine (0.125 grams), and sodium triacetoxyborohydride (0.27 grams). The mixture was stirred for 18 hours. The reaction mixture was quenched with methanol (3 ml) and poured into a separatory funnel containing aqueous saturated sodium hydrogen carbonate (100 ml) and ethyl acetate (100 ml). The mixture was extracted. The organic layer was washed with water. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was treated with ethyl acetate/hexanes and collected by filtration (0.083 g, 61% yield). δ1H NMR (400 MHz, DMSO-d6) 9.98(s, 1H), 8.83(d, 1H), 8.44(s, 1H), 7.58(m, 3H), 7.44(m, 2H), 7.37(m, 2H), 7.31(m, 1H), 7.03(d, 1H), 6.91(m, 1H), 6.5(d, 1H), 5.1(s, 2H), 3.84(s, 1H), 3.25(m, 2H), 2.99(s, 3H), 2.96(m, 2H). ESI-MS m/z 545(M−1).

reactant | 5-(4-(4-benzyloxy-phenylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride | 0.13 grams | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)C1=CC=C(O1)C=O)F
reactant | diisopropylethylamine | 65 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methanesulphonylethylamine | 0.125 grams | CS(=O)(=O)CCN | C3H9NO2S
reactant | sodium triacetoxyborohydride | 0.27 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 45 mg | C(C)(=O)O | C2H4O2
product | N-[4-(Benzyloxy)phenyl]-7-fluoro-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | 61% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)CNCCS(=O)(=O)C)F | C29H27FN4O4S
